US08026244B2
(a) N-(Pyridin-2-ylmethyl)thiourea
2-(Aminomethyl)pyridine (2.0 g, 18.5 mmol) was added dropwise to a stirred solution of benzoyl isothiocyanate (3.3 g, 20.2 mmol) in CH2Cl2 (30 mL) at 0° C. The mixture was stirred at 0° C. for 4 h. The solvent was evaporated in vacuo and 1M sulfuric acid (40 mL) was added. The reaction mixture was stirred at rt for 19 h. The mixture was neutralized with saturated sodium carbonate (aq.). The oil that formed in the solution during neutralization was removed with a spatula. The solid was collected, washed and dried. The solid was then dissolved in sodium hydroxide (10% aq., 15 mL) and MeOH (5 mL) and the solution was stirred at r.t. for 20 h. The reaction mixture was neutralized with 2M sulfuric acid and the aqueous solution was extracted with ethyl acetate (2×50 mL). The organic phase was treated with activated charcoal, filtered, dried (Na2SO4) and evaporated. The residue was suspended in diethyl ether, filtered, washed with diethyl ether and dried, giving the title compound (1.35 g, 44%) as a solid. The crude product was used in the next step without further purification.

reactant | 2-(Aminomethyl)pyridine | 18.5 mmol, 2.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | benzoyl isothiocyanate | 20.2 mmol, 3.3 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-2-ylmethyl)thiourea | 1.35 g, 44% | N1=C(C=CC=C1)CNC(=S)N | C7H9N3S
